US08133995B2
Step 5: Preparation of 1-(4-aminopyrrolo[2,1-f][1,2,4]triazin-6-yl)ethanol
To a solution of THF (100 mL) was added 3.0 M methylmagnesium bromide in diethyl ether (14.0 mL, 41.9, mmol) cooled in an ice bath. Then 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carbaldehyde (0.68 g, 4.19 mmol) was added as a solution in THF (200 mL) via an addition funnel. The reaction was allowed to slowly warm to rt over the following 17 h. The reaction was carefully treated with MeOH (10 mL) followed by aq saturated NH4Cl (50 mL) and EtOAc (50 mL). The solution was transferred to a separatory funnel and the organic layer was isolated while the aqueous layer was back extracted with EtOAc (4×20 mL). The combined organic layers were collected, dried (MgSO4), filtered, and concentrated to dryness. The crude material was then purified by flash chromatography (85:15 v/v CH2Cl2-MeOH). The purified fractions were concentrated in vacuo and then dried under vacuum to afford 422 mg of the above compound (2.37 mmol, yield 56%). 1H-NMR (DMSO-d6) δ 7.72 (s, 1H), 7.59 (br s, 2H), 7.45 (dd, J=0.5 Hz, 1.7 Hz, 1H), 6.76 (dd, J=0.5 Hz, 1.7 Hz, 1H), 5.03 (d, J=4.7 Hz, 1H), 4.79 (m, 1H), 1.38 (d, J=6.5 Hz, 3H); MS [M+H]+=179.3; LCMS RT=1.04 min.

reactant | methylmagnesium bromide | 3.0 M | C[Mg]Br
reactant | 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carbaldehyde | 4.19 mmol, 0.68 g | NC1=NC=NN2C1=CC(=C2)C=O | C7H6N4O
reactant | MeOH | 10 mL | CO | CH4O
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | diethyl ether | 14.0 mL | C(C)OCC | C4H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(4-aminopyrrolo[2,1-f][1,2,4]triazin-6-yl)ethanol | 2.37 mmol, 422 mg, yield 56% | NC1=NC=NN2C1=CC(=C2)C(C)O | C8H10N4O
